US08071581B2
Intermediate 48: 3-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-propionitrile
Pyrazole-4-boronic acid pinacol ester (1 g, 1 equiv, 5.15 mmol) was dissolved in dimethylformamide (15 mL) followed by the addition of Cs2CO3 (0.86 g, 1.5 equiv, 7.73 mmol) and 3-chloropropionitrile (1.1 equiv, 5.67 mmol, 0.44 mL). The mixture was heated at 90° C. overnight. The reaction was diluted with ethyl acetate and washed with water (3×) and brine (3×). The organic phases was concentrated in vacuo onto silica gel and purified by flash chromatography (SiO2, CH2Cl2:CH3OH 100:0-90:10) to return the title compound (0.11 g, 9%). 1H NMR (500 MHz, DMSO): δ 1.26 (12H, s), 3.07 (2H, t), 4.40 (2H, t), 7.65 (1H, s), 8.04 (1H, s). MS m/z 248 (M+H+)+.

reactant | Pyrazole-4-boronic acid pinacol ester | 5.15 mmol, 1 g, 1 equiv | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | Cs2CO3 | 7.73 mmol, 0.86 g, 1.5 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloropropionitrile | 5.67 mmol, 0.44 mL, 1.1 equiv | ClCCC#N | C3H4ClN
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-propionitrile | CC1(OB(OC1(C)C)C=1C=NN(C1)CCC#N)C | C12H18BN3O2
